US04876393
8.0 g (0.05 mole) of bromine, dissolved in 100 ml pentane, are added dropwise to a solution of 9.75 g (0.05 mol) of 4-n-butoxy-1,1,1-trifluorobut-3-en-2-one in 50 ml of pentane cooled to -20° C. After stirring for 1 hour at -20° C., a solution of 6.0 g (0.06 mole) of triethylamine in 100 ml pentane is added dropwise at the same temperature. After being allowed to stand overnight at 25° C., the mixture is poured into ice water and acidified by means of 1N hydrochloric acid and the phases are separated. Conventional work-up gives 12.1 g of almost homogeneous crude 3-bromo-4-n-butoxy-1,1,1-trifluorobut-3-en-2-one, which is freed from the small amount of impurities by distillation under reduced pressure. Boiling point 113°-115° C./16 mbar, nD20 =1.4640.

reactant | bromine | 0.05 mole, 8.0 g | BrBr | Br2
reactant | 4-n-butoxy-1,1,1-trifluorobut-3-en-2-one | 0.05 mol, 9.75 g | C(CCC)OC=CC(C(F)(F)F)=O | C8H11F3O2
reactant | triethylamine | 0.06 mole, 6.0 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | pentane | 100 ml | CCCCC | C5H12
solvent | pentane | 50 ml | CCCCC | C5H12
solvent | pentane | 100 ml | CCCCC | C5H12
product | 3-bromo-4-n-butoxy-1,1,1-trifluorobut-3-en-2-one | BrC(C(C(F)(F)F)=O)=COCCCC | C8H10BrF3O2
